US07816353B2
To a round bottom flask was added 2-(2-amino-5-formyl-6-methylsulfanyl-pyrimidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide (50.0 mg, 0.13 mmol, 1.0 mmol), MeOH (2.0 mL), potassium bicarbonate (51.0 mg, 0.51 mmol, 4.0 eq.), and hydroxylamine HCl (35.6 mg, 0.51 mmol, 4.0 eq.). The reaction was heated to 60° C. for 72 hrs before quenching with H2O (10 mL) and EtOAc (50 mL). The EtOAc layer washed with brine, dried with Na2SO4, and concentrated to give crude 2-[2-amino-5-(hydroxyimino-methyl)-6-methylsulfanyl-pyrimidin-4-ylamino]-N-(3-trifluoromethyl-phenyl)-acetamide as an oil. The product was then precipitated out with 3 mL water and 0.5 mL of ACN, filtered and rinsed with 2 mL of (1:2 ACN: H2O) to give pure 2-[2-amino-5-(hydroxyimino-methyl)-6-methylsulfanyl-pyrimidin-4-ylamino]-N-(3-trifluoromethyl-phenyl)-acetamide as a solid (15.0 mg, 29%). LC/MSD (HP Series 1100 MSD): Expected MW: 400, Observed M+H, 401.1, Retention time: 1.48 min. ANALYTICAL HPLC: >80%, Retention time: 2.89 min (8 minute run). 1H-NMR (d6-DMSO): 10.98 (s, 1H), 10.50 (s, 1H), 8.40 (t, 1H), 8.15 (s, 1H), 8.09 (s, 1H), 7.77 (d, 1H), 7.58 (t, 1H), 7.40 (d, 1H), 5.90 (br s, 2H), 4.36 (d, 2H), 2.40 (s, 3H) ppm.

reactant | 2-(2-amino-5-formyl-6-methylsulfanyl-pyrimidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide | 0.13 mmol, 50.0 mg | NC1=NC(=C(C(=N1)NCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C=O)SC | C15H14F3N5O2S
reactant | potassium bicarbonate | 0.51 mmol, 51.0 mg, 4.0 eq. | C([O-])(O)=O.[K+]
reactant | hydroxylamine HCl | 0.51 mmol, 35.6 mg, 4.0 eq. | Cl.NO
solvent | MeOH | 2.0 mL | CO | CH4O
product | 2-[2-amino-5-(hydroxyimino-methyl)-6-methylsulfanyl-pyrimidin-4-ylamino]-N-(3-trifluoromethyl-phenyl)-acetamide | 15.0 mg, 29% | NC1=NC(=C(C(=N1)NCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C=NO)SC | C15H15F3N6O2S
